US05432284
acetylating α-(2-chlorophenyl)-α-[2-[(1-methylethyl)amino]ethyl]-1-piperidinebutanamide in the presence of acetic anhydride to give α-[2-[acetyl(1-methylethyl)amino]ethyl]-α-(2-chlorophenyl)-1-piperidinebutanamide.

reactant | α-(2-chlorophenyl)-α-[2-[(1-methylethyl)amino]ethyl]-1-piperidinebutanamide | ClC1=C(C=CC=C1)C(C(=O)N)(CCN1CCCCC1)CCNC(C)C | C20H32ClN3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | α-[2-[acetyl(1-methylethyl)amino]ethyl]-α-(2-chlorophenyl)-1-piperidinebutanamide | C(C)(=O)N(CCC(C(=O)N)(CCN1CCCCC1)C1=C(C=CC=C1)Cl)C(C)C | C22H34ClN3O2
